US06096771
(c) 3-Hydroxypyrido[3,2-d]isoxazole
To 10% aqueous sodium hydroxide solution (26 ml) was added 2-chloropyridine-3-carbohydroxamic acid (2.60 g) and refluxed for 30 minutes. After pH was adjusted to 2.0 with 6N-hydrochloric acid under ice cooling, the reaction mixture was left to stand for 30 minutes at the same temperature. The title compound (1.68 g) was obtained by filtering the precipitated crystals and washing with water and then with a methanol-ether mixture (1:1).

reactant | sodium hydroxide | 26 ml | [OH-].[Na+]
reactant | 2-chloropyridine-3-carbohydroxamic acid | 2.60 g | ClC1=NC=CC=C1C(=O)NO | C6H5ClN2O2
reactant | hydrochloric acid | Cl | ClH
product | 3-Hydroxypyrido[3,2-d]isoxazole | 1.68 g | OC1=NOC2=C1C=CC=N2 | C6H4N2O2
